US03953432
3,5-Dimethoxybenzaldehyde was reacted with 2,4,4-triethyl-2-oxazoline to produce 2-[2-(3,5-dimethoxyphenyl)-1-methylethenyl]-4,4-dimethyl-2-oxazoline (P-1641), b.p. 171°-173° at 0.25 mm. It was administered to mice to determine the acute oral toxicity and a trained observer studied the animals for tranquilizing activity. The oral LD0 was determined to be over 5 g/kg and the animals receiving it were observed to be highly tranquilized. The compound is administered orally to animals in need of tranquilizing in a dosage of from about 100 to about 1000 mg/kg.

reactant | 3,5-Dimethoxybenzaldehyde | COC=1C=C(C=O)C=C(C1)OC | C9H10O3
reactant | 2,4,4-triethyl-2-oxazoline | C(C)C=1OCC(N1)(CC)CC | C9H17NO
product | 2-[2-(3,5-dimethoxyphenyl)-1-methylethenyl]-4,4-dimethyl-2-oxazoline | COC=1C=C(C=C(C1)OC)C=C(C)C=1OCC(N1)(C)C | C16H21NO3
